US06320050B1
A solution of freshly prepared lithium diisopropylamide (78.0 mL of a 0.91 M stock solution, 70.98 mmol) cooled to −78° C. was treated with (4-chloro-phenyl)-acetic acid (5.76 g, 33.8 mmol) in tetrahydrofuran/1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (84 mL, 3:1). The resulting solution was stirred at −78° C. for 1 h. Iodomethylcyclopentane (7.45 g, 35.49 mmol) was then added in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (2 mL). This solution was stirred at −78° C. for 4 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 16 h. The reaction mixture was then quenched by the dropwise addition of a saturated aqueous ammonium chloride solution (20 mL). The excess solvent was removed in vacuo. The residue was acidified to pH=1 with a 1 N aqueous hydrochloric acid solution. The mixture was then poured into water (150 mL) and extracted with ethyl acetate (3×50 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 2-(4-chloro-phenyl)-3-cyclopentyl-propionic acid (6.76 g, 79.1%) as a yellow solid: mp 82-84° C.: EI-HRMS m/e calcd for C14H17ClO2 (M+) 252.0917, found 252.0906.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (4-chloro-phenyl)-acetic acid | 33.8 mmol, 5.76 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | Iodomethylcyclopentane | 35.49 mmol, 7.45 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 84 mL | O1CCCC1.CN1C(N(CCC1)C)=O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 2 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(4-chloro-phenyl)-3-cyclopentyl-propionic acid | 6.76 g, 79.1% | ClC1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C14H17ClO2
